US09212192B2
(5-bromo-2-nitrophenyl)(methyl)sulfane
A solution of sodium methanethiolate (2.25 g, 70.1 mmol) in water (50 mL) was added dropwise to a solution of 4-bromo-2-fluoro-1-nitrobenzene (6.42 g, 29.2 mmol) in N,N-dimethylformamide (150 mL) at 0° C. and the mixture was stirred for 1 hour. The mixture was filtered and the solid washed with water (3×150 mL) to give the title compound.

reactant | sodium methanethiolate | 70.1 mmol, 2.25 g | C[S-].[Na+]
reactant | 4-bromo-2-fluoro-1-nitrobenzene | 29.2 mmol, 6.42 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
solvent | water | 50 mL | O | H2O
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | (5-bromo-2-nitrophenyl)(methyl)sulfane | BrC=1C=CC(=C(C1)SC)[N+](=O)[O-] | C7H6BrNO2S
